US08217177B2
A suspension of tert-butyl 4-bromophenethylcarbamate (2700 mg, 8994 μmol), bis(pinacolato)diboron (2284 mg, 8994 Smol), bis(pinacolato)diboron (2284 mg, 8994 μmol), potassium acetate (1765 mg, 17989 μmol) in dioxane (12 mL) was sparged with argon for 5 min then heated to 120° C. in an appropriately sealed vessel for 1 h. The reaction was then partitioned between ether (50 mL) and 5% NaHCO3 (25 mL). The organic phase was then dried over MgSO4, concentrated, then purified on silica (120 g) eluting with 10>30% EtOAc/Hexanes. The product tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenethylcarbamate (2200 mg, 70% yield) was isolated as a white solid. MS (ESI pos. ion) m/z: 292 (MH+1−56). Calc'd exact mass for C19H30BNO4: 347.

reactant | tert-butyl 4-bromophenethylcarbamate | 8994 μmol, 2700 mg | BrC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C13H18BrNO2
reactant | bis(pinacolato)diboron | 2284 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | bis(pinacolato)diboron | 8994 μmol, 2284 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 17989 μmol, 1765 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenethylcarbamate | 2200 mg, 70% yield | CC1(OB(OC1(C)C)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1)C | C19H30BNO4
